US07691850B2
(d) 1,1-dimethylethyl {1-methyl-1-[(3S)-1-(phenylmethyl)-3-pyrrolidinyl]ethyl}carbamate
To a solution of 2-[(3S)-1-(phenylmethyl)-3-pyrrolidinyl]-2-propanamine (6.75 g, 31 mmol) in DCM (100 mL) was added bis(1,1-dimethylethyl)dicarbonate (6.78 g, 31 mmol) followed with triethylamine (4.8 g, 47.5 mmol). After stirring at room temperature for 24 h, the solution was partitioned between DCM and water. The aqueous solution was extracted several times with DCM. The organic fractions were pooled, concentrated and purified with column chromatography (silica, 30-50% ethyl acetate in hexane) providing the title compound as an oil (5.85 g, 59%): LC/MS (ES) m/e 319 (M+H)+.

reactant | 2-[(3S)-1-(phenylmethyl)-3-pyrrolidinyl]-2-propanamine | 31 mmol, 6.75 g | C1(=CC=CC=C1)CN1C[C@H](CC1)C(C)(C)N | C14H22N2
reactant | bis(1,1-dimethylethyl)dicarbonate | 31 mmol, 6.78 g | CC(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
reactant | triethylamine | 47.5 mmol, 4.8 g | C(C)N(CC)CC | C6H15N
solvent | DCM | 100 mL | C(Cl)Cl | CH2Cl2
product | 1,1-dimethylethyl {1-methyl-1-[(3S)-1-(phenylmethyl)-3-pyrrolidinyl]ethyl}carbamate | 5.85 g, 59% | CC(C)([C@@H]1CN(CC1)CC1=CC=CC=C1)NC(OC(C)(C)C)=O | C19H30N2O2
